US04600709
In a manner analogous to that described in Example 4, using 25.0 g (83.7 mmol) of 4-(4-chlorophenylsulphonyl)-5-methyl-1,2-benzenediol, 13.2 g (83.7 mmol) of dichloroacetic acid ethyl ester, 57 g (418 mmol) of potassium carbonate and 220 ml of 1,2-dimethoxyethane, with subsequent hydrolysis with sodium hydroxide solution in methanol, the desired 5-(4-chlorophenylsulphonyl)-6-methyl-1,3-benzodioxole-2-carboxylic acid is obtained in the form of white crystals having a melting point of 169°-171° (from 1,2-dichloroethane).

reactant | 4-(4-chlorophenylsulphonyl)-5-methyl-1,2-benzenediol | 83.7 mmol, 25.0 g | ClC1=CC=C(C=C1)S(=O)(=O)C=1C=C(C(=CC1C)O)O | C13H11ClO4S
reactant | dichloroacetic acid ethyl ester | 83.7 mmol, 13.2 g | C(C)OC(C(Cl)Cl)=O | C4H6Cl2O2
reactant | potassium carbonate | 418 mmol, 57 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | 1,2-dimethoxyethane | 220 ml | COCCOC | C4H10O2
product | 5-(4-chlorophenylsulphonyl)-6-methyl-1,3-benzodioxole-2-carboxylic acid | ClC1=CC=C(C=C1)S(=O)(=O)C1=CC2=C(OC(O2)C(=O)O)C=C1C | C15H11ClO6S
